US09085555B2
1-(6-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone
To a suspension of AlCl3 (1.37 g, 10.3 mmol) in CH2Cl2 (40 mL) was added 6-methoxy-7-azaindole (315 mg, 2.07 mmol) and the mixture was stirred at RT for 30 min under nitrogen. Acetyl chloride (736 μL, 10.3 mmol) was added dropwise and the resulting mixture stirred at RT overnight. MeOH (8 mL) was added cautiously to quench the reaction and the solvents were removed under vacuum. The residue was purified by flash column chromatography on silica gel (CH2Cl2 to CH2Cl2/MeOH 93-7) and by preparative HPLC (Waters Sunfire C18-ODB, 5 μm, 30×100 mm, 5% to 100% CH3CN in H2O in 25 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) to give after neutralization (aqueous saturated NaHCO3) and extraction (CH2Cl2) of the purified fractions the desired compound TLC, Rf (CH2Cl2/MeOH 9:1)=0.55; MS (UPLC/MS): 191.2 [M+H]+, 189.1 [M−H]−, 379.2 [2M−H]−; tR (HPLC conditions f): 1.45 min. 1H-NMR (400 MHz, DMSO): δ (ppm): 8.35 (d, 1H), 8.29 (s, 1H), 6.75 (d, 1H), 5.04 (s, 2H), 3.89 (s, 3H), 2.44 (s, 3H).

reactant | AlCl3 | 10.3 mmol, 1.37 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 6-methoxy-7-azaindole | 2.07 mmol, 315 mg | COC1=CC=C2C=CNC2=N1 | C8H8N2O
reactant | Acetyl chloride | 10.3 mmol, 736 μL | C(C)(=O)Cl | C2H3ClO
reactant | MeOH | 8 mL | CO | CH4O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | COC1=CC=C2C(=N1)NC=C2C(C)=O | C10H10N2O2
